US06872718B1
5-Amino-7-(tert-butyl)-2,3-dihydro-2,2,4-trimethyl-1-benzofuran
To a solution of N-[5-(tert-butyl)4-hydroxy-2-methyl-3-(2-methyl-2-propenyl)phenyl]formamide (10.45 g, 40 mmol) in methanol (100 ml) was added concentrated hydrochloric acid (40 ml) and the mixture was heated under reflux for 3 hours under argon atmosphere. After cooling to 0° C., the mixture was made weakly basic using 12N sodium hydroxide, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate, and then the solvent was removed under reduced pressure. The residue was purified by a column chromatography on a silica gel (hexane:ethyl acetate=1:1) and crystallized from hexane to obtain 6.28 g of the title compound.

reactant | N-[5-(tert-butyl)4-hydroxy-2-methyl-3-(2-methyl-2-propenyl)phenyl]formamide | 40 mmol, 10.45 g | C(C)(C)(C)C=1C(=C(C(=C(C1)NC=O)C)CC(=C)C)O | C16H23NO2
reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | sodium hydroxide | 12N | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 5-Amino-7-(tert-butyl)-2,3-dihydro-2,2,4-trimethyl-1-benzofuran | 6.28 g, Yield: 67% | NC=1C=C(C2=C(CC(O2)(C)C)C1C)C(C)(C)C | C15H23NO
